US06759428B2
Similarly, 1-methyl-6-phenyl-1H-indole-2-carboxylic acid was prepared from 6-bromo-1-methyl-1H-indole-2-carboxylic acid methyl ester and was used to prepare 6-Phenyl-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide.

reactant | 6-bromo-1-methyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC(=CC=C2C1)Br)C | C11H10BrNO2
reactant | 6-Phenyl-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)C1=CC=CC=C1 | C28H32N4O2
product | 1-methyl-6-phenyl-1H-indole-2-carboxylic acid | CN1C(=CC2=CC=C(C=C12)C1=CC=CC=C1)C(=O)O | C16H13NO2
